US09023864B2
(7-{4-[4-(1-Hydroxy-1-methyl-ethyl)-phenyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid
The title compound was prepared using procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 2-(4-ethynylphenyl)propan-2-ol. MS (+ESI) m/z: 431.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 2-(4-ethynylphenyl)propan-2-ol | C(#C)C1=CC=C(C=C1)C(C)(C)O | C11H12O
product | (7-{4-[4-(1-Hydroxy-1-methyl-ethyl)-phenyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid | OC(C)(C)C1=CC=C(C=C1)C=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C25H26N4O3
